US04705555
Cleavage of the tert-butyl group from 2-bromo-N-(1,1-dimethylethyl)-N'-methylbenzenesulfonimidamide by use of trifluoroacetic acid with or without added boron trifluoride etherate was found to be slow at room temperature. 2-Bromo-N-(1,1-dimethylethyl)-N'-methylbenzenesulfonimidamide (0.9 g, 2.9 mmol) recovered from these cleavage experiments and anisole (0.6 g, 5.5 mmol) were dissolved in trifluoroacetic acid (25 mL). Trifluoromethanesulfonic acid (ca. 9 g, 60 mmol) was added and the reaction mixture was stirred at room temperature for 1 hour. Then sodium acetate (5.5 g, 67 mmol) was added and the solvent was evaporated to leave a solid residue. This was dissolved in a mixture of dichloromethane and a small amount of water. Potassium carbonate was added until the mixture became basic. The mixture was partially dried (Na2SO4), filtered through Celite®, redried (Na2SO4), and gravity filtered. Evaporation of the solvent left a slightly brownish oil (1.4 g). This was dissolved in dichloromethane and chromatographed on a column of silica gel using 40:1 CH2Cl2 --Et2O followed by 1:1 CH2Cl2 --Et2O as eluant. Fractions containing the product (Rf =0.44, 10:1 CH2Cl2 --Et2O, UV) were evaporated to leave 2-bromo-N'-methylbenzenesulfonimidamide as a colorless oil (0.7 g.).

reactant | 2-bromo-N-(1,1-dimethylethyl)-N'-methylbenzenesulfonimidamide | BrC1=C(C=CC=C1)S(=O)(NC(C)(C)C)=NC | C11H17BrN2OS
reactant | boron trifluoride etherate | B(F)(F)F.CCOCC
reactant | 2-Bromo-N-(1,1-dimethylethyl)-N'-methylbenzenesulfonimidamide | 2.9 mmol, 0.9 g | BrC1=C(C=CC=C1)S(=O)(NC(C)(C)C)=NC | C11H17BrN2OS
reactant | anisole | 5.5 mmol, 0.6 g | C1(=CC=CC=C1)OC | C7H8O
reactant | Trifluoromethanesulfonic acid | 60 mmol, ca. 9 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | sodium acetate | 67 mmol, 5.5 g | C(C)(=O)[O-].[Na+]
reactant | Potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | trifluoroacetic acid | 25 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 2-bromo-N'-methylbenzenesulfonimidamide | BrC1=C(C=CC=C1)S(=O)(N)=NC | C7H9BrN2OS
